US07119205B2
2-[4-(2-chloro-5-cyano-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridin-3-yl)phenoxy]-N-(3-hydroxypropyl)acetamide
A suspension of 2-[4-(2-chloro-5-cyano-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridin-3-yl)phenoxy]acetic acid (35 mg, 0.093 mmol), HOBt (13 mg, 0.093 mmol), PS-DCC (88 m, 0.121 mmol, 1.37 mmol/g loading), and 3-amino-propan-1-ol (7 mg, 0.0098 mmol) were shaken in a vial at 50 C for 18 h. The reaction was then filtered through celite, eluting with MeOH, and the eluent was concentrated under reduced pressure. The residue was purified by RP-HPLC to give the title compound. MS (ESI) m/e 432 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.60 (m, 2H), 3.21 (m, 2H), 3.42 (t, J=6.27 Hz, 2H), 4.49 (s, 2H), 6.95 (d, J=8.81 Hz, 2H), 7.23 (d, J=8.81 Hz, 2H), 8.11 (m, 1H).

reactant | 2-[4-(2-chloro-5-cyano-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridin-3-yl)phenoxy]acetic acid | 0.093 mmol, 35 mg | ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(OCC(=O)O)C=C1 | C16H9ClN2O5S
reactant | HOBt | 0.093 mmol, 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.121 mmol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-amino-propan-1-ol | 0.0098 mmol, 7 mg | NCCCO | C3H9NO
product | 2-[4-(2-chloro-5-cyano-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridin-3-yl)phenoxy]-N-(3-hydroxypropyl)acetamide | ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(OCC(=O)NCCCO)C=C1 | C19H16ClN3O5S
